US06495581B1
Lithium hydroxide monohydrate (194 mg) was added to a solution of ethyl E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoate (790 mg) in tetrahydrofuran (6 ml)-water (4 ml)-ethanol (4 ml) and stirred at room temperature for 4 hours. 1N hydrochloric acid (4.7 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoic acid (637 mg, yield 85%) as colorless crystals. m.p. 91-92° C.

reactant | Lithium hydroxide monohydrate | 194 mg | O.[OH-].[Li+]
reactant | ethyl E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoate | 790 mg | C1(=CC=CC=C1)/C(/CCCCC(=O)OCC)=N/OCC1=CC=C(C=C1)OCC1=NC(=NO1)C1=CC=CC=C1 | C30H31N3O5
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 4.7 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoic acid | 637 mg, yield 85% | C1(=CC=CC=C1)/C(/CCCCC(=O)O)=N/OCC1=CC=C(C=C1)OCC1=NC(=NO1)C1=CC=CC=C1 | C28H27N3O5
